US07425568B2
2-[2-(3-Fluorophenyl)chroman-6-yloxy]-5-nitropyridine was prepared as described for 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine in Example 1(b) starting from 210 mg of 2-(3-fluorophenyl)chroman-6-ol. The product was recrystallised from 2-propanol. 1H NMR (400 MHz, CDCl3) δ: 9.07 (d, 1H, J 2.8 Hz), 8.46 (dd, 1H, J 9.0, 2.8 Hz), 7.36 (m, 1H), 7.21-7.15 (m, 2H), 7.03 (m, 1H), 7.01 (d, 1H, J 9.0 Hz), 6.98 (d, 1H, J 8.6 Hz), 6.92 (dd, 1H, J 8.6, 2.7 Hz), 6.90 (d, 1H, J 2.7 Hz), 5.09 (dd, 1H, J 10.3, 2.4 Hz), 3.01 (ddd, 1H, J −16.9, 11.4, 6.0 Hz), 2.82 (ddd, 1H, J −16.9, 5.1, 3.2 Hz), 2.24 (m, 1H), 2.09 (m, 1H).

reactant | 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
reactant | 2-(3-fluorophenyl)chroman-6-ol | 210 mg | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)O | C15H13FO2
product | 2-[2-(3-Fluorophenyl)chroman-6-yloxy]-5-nitropyridine | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)OC1=NC=C(C=C1)[N+](=O)[O-] | C20H15FN2O4
